US06538004B2
4-(4-chloro-3-nitrophenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
4-Chloro-3-nitrobenzaldehyde (0.27 g, 1.5 mmol), 1,3cyclopentadione (0.15 g, 1.5 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.17 g, 1.5 mmol) were processed as described in Example 1 to provide 0.3 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.3 (t, 2H), 2.68 (m, 2H), 3.5 (s, 3H), 4.81 (s, 1H), 7.48 (dd, 1H), 7.6 (d, 1H), 7.78 (d, 1H), 9.61 (bs, 1H), 10.49 (s, 1H); MS (ESI−) m/z 359 (M−H)−; Anal. calcd for C16H13N4ClO4: C, 53.27;H, 3.63; N, 15.53. Found: C, 53.16;H, 3.88; N, 14.83.

reactant | 4-Chloro-3-nitrobenzaldehyde | 1.5 mmol, 0.27 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 1,3cyclopentadione | 1.5 mmol, 0.15 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.17 g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(4-chloro-3-nitrophenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.3 g | ClC1=C(C=C(C=C1)C1C2=C(NC3=C1C(NN3C)=O)CCC2=O)[N+](=O)[O-] | C16H13ClN4O4
